US08044047B2
(5-Chloro-4H-benzo[d][1,3]oxazin-2-yl)-(R)-indan-1- yl -amine
To a stirred solution of commercially available 2-amino-6-chlorobenzyl alcohol (CAS-no. 39885-08-0) (315 mg, 2 mmol) in tetrahydrofuran (4 ml) at 23° C. was added commercially available (R)-(−)-1-indanyl isothiocyanate (CAS-no. 737000-97-4) (324 ul, 2 mmol) and the mixture was stirred at 23° C. for 18 h, then at reflux for another 3 h. Cooled to 23° C., the solvent was removed in vacuum, the residue was dissolved in acetonitrile (4 ml), added dicyclohexylcarbodiimide (DCC) (619 mg, 3.0 mmol) and refluxed for 2 h. Cooled to room temperature, diluted with ethyl acetate and water, added little 1 M NaH2PO4.2H2O solution to achieve pH 4, separated phases, washed organic layer with brine and dried over sodium sulfate. Removal of the solvent in vacuum left a yellow foam, which was purified by silica gel flash chromatography with n-heptane and ethyl acetate to give the title compound as a light yellow oil (215 mg, 36%), MS (ISP) m/e=299.1 [(M+H)+].

reactant | 2-amino-6-chlorobenzyl alcohol | 2 mmol, 315 mg | NC1=C(CO)C(=CC=C1)Cl | C7H8ClNO
reactant | (R)-(−)-1-indanyl isothiocyanate | 2 mmol, 324 ul | [C@H]1(CCC2=CC=CC=C12)N=C=S | C10H9NS
reactant | dicyclohexylcarbodiimide | 3.0 mmol, 619 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (5-Chloro-4H-benzo[d][1,3]oxazin-2-yl)-(R)-indan-1- yl -amine | 215 mg, 36% | ClC1=CC=CC=2N=C(OCC21)N[C@@H]2CCC1=CC=CC=C21 | C17H15ClN2O
